US05840732
ii) Synthesis of 5-[3-(2-chlorophenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 1.37 g (2.9 mmol) of 5-[3-(2-chlorophenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione, 1.0 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring, after which the solvent was distilled off, to yield 1.23 g (83.1%, brown oily substance) of the desired product.

reactant | 5-[3-(2-chlorophenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 2.9 mmol, 1.37 g | ClC1=C(C=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C23H22ClN3O2S2
reactant | hydrochloric acid ethyl acetate | 4N, 1.0 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-[3-(2-chlorophenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.ClC1=C(C=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C23H22ClN3O2S2.ClH/c24-18-9-2-1-7-17(18)8-5-10-19-22(28)27(23(29)31-19)14-3-4-16-30-21-12-6-11-20-25-13-15-26(20)21;/h1-2,6-7,9-13,15H,3-5,8,14,16H2;1H
